US08492401B2
Thionyl chloride (3.1 mol, 227 mL) was slowly added to a room temperature suspension of (2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methanol (0.62 mol, 180 g) in CH2Cl2 (1.8 L). DMF (5 mL) was added and the reaction became homogeneous. The reaction was stirred for 1 h, then concentrated under reduced pressure. The crude product was dissolved in CH2Cl2 (150 mL) and concentrated under reduced pressure. The crude product was chased with hexane (200 mL×3)) and dried under vacuum for 16 h to give 6-(chloromethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine as a tan solid (180 g, 94% yield).

reactant | Thionyl chloride | 3.1 mol, 227 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methanol | 0.62 mol, 180 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CO | C13H9N3O3S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1.8 L | C(Cl)Cl | CH2Cl2
product | 6-(chloromethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 180 g, 94% yield | ClCC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H8ClN3O2S
